US09108969B2
Step A: Preparation of tert-Butyl 2-(7-(4-Chloro-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate
To a solution of tert-butyl 2-(7-hydroxy-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (0.053 g, 0.183 mmol) in DMF (1 mL) was added Cs2CO3 (0.0.071 g, 0.219 mmol) followed by 4-(bromomethyl)-1-chloro-2-(trifluoromethyl)benzene (0.050 g, 0.183 mmol). The reaction was stirred at 60° C. for 16 h. The mixture was filtered. The filtrate was concentrated under vacuum and purified by silica gel column chromatography to give the title compound as a white solid (0.048 g). LCMS m/z=480.4 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 1.49 (s, 9H), 2.21-2.34 (On, 1H), 2.50 (dd, J=15.73, 8.40 Hz, 1H), 2.73 (dd, J=15.79, 6.32 Hz, 1H), 2.81-2.93 (m, 1H), 3.64-3.77 (m, 1H), 3.94-4.05 (m, 1H), 4.06-4.17 (On, 1H), 5.10 (s, 2H), 6.84 (dd, J=8.72, 2.40 Hz, 1H), 7.07 (d, J=2.40 Hz, 1H), 7.13 (d, J=8.72 Hz, 1H), 7.47-7.53 (m, 1H), 7.55-7.61 (m, 1H), 7.79 (s, 1H).

reactant | tert-butyl 2-(7-hydroxy-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.183 mmol, 0.053 g | OC1=CC=2C=C3N(C2C=C1)CCC3CC(=O)OC(C)(C)C | C17H21NO3
reactant | Cs2CO3 | 0.219 mmol | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-(bromomethyl)-1-chloro-2-(trifluoromethyl)benzene | 0.183 mmol, 0.050 g | BrCC1=CC(=C(C=C1)Cl)C(F)(F)F | C8H5BrClF3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 2-(7-(4-Chloro-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.048 g | ClC1=C(C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)C=C1)C(F)(F)F | C25H25ClF3NO3
